US06194410B1
10 ml of a 33% solution of methylamine in EtOH was added to a solution of 0.3 g (0.85 mmol) of 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 5 ml of DMF and stirred at RT for 2 hrs. The reaction solution was evaporated in a high vacuum and the residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2,CH2Cl2/AcOEt 15:1) and crystallization from EtOH yielded 0.18 g (60%) of (3-benzenesulphonyl 5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-yl)-methyl-amine as colorless crystals, m.p. >230°.

reactant | methylamine | CN | CH5N
reactant | 3-benzenesulphonyl-7-chloro-5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.85 mmol, 0.3 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)C)SC | C14H12ClN3O2S2
solvent | EtOH | CCO | C2H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (3-benzenesulphonyl 5-methyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-yl)-methyl-amine | 0.18 g, 60% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2NC)C)SC | C15H16N4O2S2
